US04897401
To a stirred mixture of 11.5 parts of N-(1-methyl-4-piperidinyl)-1H-benzimidazol-2-amine and 144 parts of N,N-dimethylformamide were added 5 parts of a sodium hydride dispersion 50%. After stirring for 1 hour at room temperature, a solution of 12.8 parts of 2-(chloromethyl)pyrazine in N,N-dimethylformamide was added dropwise to the thus obtained mixture. Upon complete addition, stirring was continued for 2 hours at 50° C. The reaction mixture was poured into water and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.5 parts (9.3%) of N-(1-methyl-4-piperidinyl)-1-(2-pyrazinylmethyl)-1H-benzimidazol-2-amine; mp. 169.3° C. (compound 69).

reactant | N-(1-methyl-4-piperidinyl)-1H-benzimidazol-2-amine | CN1CCC(CC1)NC1=NC2=C(N1)C=CC=C2 | C13H18N4
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(chloromethyl)pyrazine | ClCC1=NC=CN=C1 | C5H5ClN2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(1-methyl-4-piperidinyl)-1-(2-pyrazinylmethyl)-1H-benzimidazol-2-amine | 9.3% | CN1CCC(CC1)NC1=NC2=C(N1CC1=NC=CN=C1)C=CC=C2 | C18H22N6
